US07521579B2
To sodium borohydride (4.3 g) suspended in a mixture of dioxane (85 ml) and ethanol (25 ml) at +10 to +15° C. is added 2-methoxy-4-(2-nitro-vinyl)-phenol in a mixture of dioxane (110 ml) and ethanol (50 ml). Thereafter the reaction mixture is stirred at room temperature for 2 hours. Acetic acid (4.5 ml) in water (130 ml) is then added carefully. The resulting mixture is evaporated to at about half of its volume. It is extracted with ethyl acetate (2×500 ml) washed with brine (2×100 ml) dried (MgSO4) and evaporated. 2-methoxy-4-(2-nitro-ethyl)-phenol is obtained as an oil which is purified by flash column chromatography on silica gel using ethyl acetate/hexane (1:1).

reactant | sodium borohydride | 4.3 g | [BH4-].[Na+]
reactant | 2-methoxy-4-(2-nitro-vinyl)-phenol | COC1=C(C=CC(=C1)C=C[N+](=O)[O-])O | C9H9NO4
reactant | Acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 85 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | dioxane | 110 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 130 ml | O | H2O
product | 2-methoxy-4-(2-nitro-ethyl)-phenol | COC1=C(C=CC(=C1)CC[N+](=O)[O-])O | C9H11NO4
